US06355726B1
2-tritylaminoethylisocyanide;
C22H20N2 (312.42); RF=0.90 (DCM/MeOH 5:1, v/v); spot stains with ninhydrin spray or with HCl vapour); 2-(4-monomethoxytrityl)aminoethylisocyanide; C23H22N2O (342.44); RF=0.89 (DCM/MeOH 5:1, v/v); spot stains with ninhydrin spray or with HCl vapour); 2-(4,4′-dimethoxytrityl)aminoethylisocyanide; C24H24N2O2 (372.47); RF=0.95 (DCM/MeOH 5:1, v/v); spot stains with ninhydrin spray or with HCl vapour);

reactant | ninhydrin spray | C1=CC=C2C(=C1)C(=O)C(C2=O)(O)O | C9H6O4
reactant | HCl | Cl | ClH
reactant | 2-(4-monomethoxytrityl)aminoethylisocyanide | COC1=CC=C(C(C2=CC=CC=C2)(C2=CC=CC=C2)NCC[N+]#[C-])C=C1 | C23H22N2O
reactant | 2-(4,4′-dimethoxytrityl)aminoethylisocyanide | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)NCC[N+]#[C-])C=C1 | C24H24N2O2
solvent | DCM MeOH | C(Cl)Cl.CO
product | 2-tritylaminoethylisocyanide | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NCC[N+]#[C-] | C22H20N2
